US04053312
D. 1-(p-methoxyphenylazo)-3-octadecanesulfinyl-2-naphthol
To a solution of 13.0 g (0.029 mole) 3-octadecanesulfinyl-2-naphthol and 5.0 g sodium hydroxide in 300 ml methanol and 200 ml tetrahydrofuran at 0°-5° C. was added a diazonium salt solution prepared from 3.6 g (0.029 mole) p-anisidine in 40 ml water containing 10 ml concentrated hydrochloric acid and a solution of 2.0 g (0.029 mole) sodium nitrite in 20 ml water. The red mixture was stirred at 5° for one hr. and at room temperature overnight, then cooled and acidified with 20 ml acetic acid in 400 ml water. The mixture was filtered to give 16 g of red solid, which could be recrystallized from ethyl acetate to give a solid, m.p. 108°-110° C.

reactant | 3-octadecanesulfinyl-2-naphthol | 0.029 mole, 13.0 g | C(CCCCCCCCCCCCCCCCC)S(=O)C=1C(=CC2=CC=CC=C2C1)O | C28H44O2S
reactant | sodium hydroxide | 5.0 g | [OH-].[Na+]
reactant | p-anisidine | 0.029 mole, 3.6 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium nitrite | 0.029 mole, 2.0 g | N(=O)[O-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 40 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 400 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 1-(p-methoxyphenylazo)-3-octadecanesulfinyl-2-naphthol | 16 g | COC1=CC=C(C=C1)N=NC1=C(C(=CC2=CC=CC=C12)S(=O)CCCCCCCCCCCCCCCCCC)O | C35H50N2O3S
